US07816401B2
(1) Synthesis of (2R,3S)—N-methoxy-N,2-dimethyl-3-[(triethylsilyl)oxy]pentanamide (P28)
The above (2R,3S)-3-hydroxy-N-methoxy-N,2-dimethylpentanamide (7.3 g, 41.7 mmol) was dissolved in dichloromethane (150 ml), followed by addition of 2,6-lutidine (10.2 ml, 87 mmol) and trifluoromethanesulfonic acid triethylsilyl ester (14.1 ml, 62 mmol) while ice cooling, and the reaction solution was stirred for five hours. The reaction solution was diluted with dichloromethane and washed with a saturated ammonium chloride aqueous solution and brine. After the organic layer was dried over anhydrous sodium sulfate and the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60, 230-400 mesh; hexane:ethyl acetate=10:1) to obtain the title compound (11.95 g) as a colorless oil.

reactant | (2R,3S)-3-hydroxy-N-methoxy-N,2-dimethylpentanamide | 41.7 mmol, 7.3 g | O[C@H]([C@H](C(=O)N(C)OC)C)CC | C8H17NO3
reactant | 2,6-lutidine | 87 mmol, 10.2 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid triethylsilyl ester | 62 mmol, 14.1 ml | C(C)[Si](CC)(CC)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (2R,3S)—N-methoxy-N,2-dimethyl-3-[(triethylsilyl)oxy]pentanamide | 11.95 g | CON(C([C@@H]([C@H](CC)O[Si](CC)(CC)CC)C)=O)C | C14H31NO3Si
